US05610293
D. Synthesis of 1,2-Diaminoeicosane
To a slurry of 2-aminoeicosanamide prepared as in Example 28C (57.5 g, 0.176 mol) in anhydrous THF (1.0 l) under a dry argon atmosphere was added a solution of lithium aluminum hydride (880 ml-1.0M in THF, 0.880 mol) over a 30 min period. The mixture was refluxed for 17.5 h and then quenched by the dropwise addition of H2O (100 ml) while cooling in an ice bath. The solid was filtered, washed with hot THF (2×1 l) and then hot methanol (1 l). The solids were then refluxed with THF (1 l) for 15 min and filtered again. The filtrates and washings were combined and the solvent was removed in vacuo. The crude product was dissolved in THF and solid impurities were removed by filtration. The solvent was again removed in vacuo and the procedure was continued using CH2Cl2. The crude product was recrystallized from CH2Cl2 -hexane to give 37.9 g (69% yield) of the product as: mp 98°-101° C.; 1H NMR (CDCl3) δ 0.91 (t, J=6.5 Hz, 3 H), 1.33 (m, 34 H), 1.96 (br s, 4 H), 2.52 (m, 1 H), 2.78 (m, 2 H).

reactant | 2-aminoeicosanamide | NC(C(=O)N)CCCCCCCCCCCCCCCCCC | C20H42N2O
reactant | lithium aluminum hydride | 0.880 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1.0 l | C1CCOC1 | C4H8O
product | 1,2-Diaminoeicosane | 37.9 g, 69% yield | NCC(CCCCCCCCCCCCCCCCCC)N | C20H44N2
